US07582625B2
A12c) ethyl ([1,4′]bipiperidinyl-4-yloxy)-acetate
A solution of 100 mg (0.33 mmol) tert. butyl ([1,4′]bipiperidinyl-4-yloxy)-acetate in 1 mL EtOH was combined with 2 mL ethanolic HCl with heating, the mixture was refluxed for a further 2 h and left overnight at RT. The precipitate formed was suction filtered and dried.

reactant | tert. butyl ([1,4′]bipiperidinyl-4-yloxy)-acetate | 0.33 mmol, 100 mg | N1(CCC(CC1)OCC(=O)OC(C)(C)C)C1CCNCC1 | C16H30N2O3
reactant | HCl | 2 mL | Cl | ClH
solvent | EtOH | 1 mL | CCO | C2H6O
product | ethyl ([1,4′]bipiperidinyl-4-yloxy)-acetate | N1(CCC(CC1)OCC(=O)OCC)C1CCNCC1 | C14H26N2O3
